US07495103B2
A solution of dimethyl amine (25 g, 0.17 mol) and formaldehyde (14.4 mL, 0.15 mol) in acetic acid (100 mL) was stirred at 0° C. for 30 min. To this solution was added 6-nitro-1H-indole (20 g, 0.12 mol). After stirring for 3 days at room temperature, the mixture was poured into 15% aq. NaOH solution (500 mL) at 0° C. The precipitate was collected via filtration and washed with water to give dimethyl-(6-nitro-1H-indol-3-ylmethyl)-amine (23 g, 87%).

reactant | dimethyl amine | 0.17 mol, 25 g | CNC | C2H7N
reactant | formaldehyde | 0.15 mol, 14.4 mL | C=O | CH2O
reactant | 6-nitro-1H-indole | 0.12 mol, 20 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | NaOH | 500 mL | [OH-].[Na+]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | dimethyl-(6-nitro-1H-indol-3-ylmethyl)-amine | 23 g, 87% | CN(CC1=CNC2=CC(=CC=C12)[N+](=O)[O-])C | C11H13N3O2
